US07625903B2
2-[(5-Chloro-2-{[3-(4-methyl-1-piperazinyl)phenyl]amino}-4-pyrimidinyl)amino]-N-(2-hydroxyethyl)benzamide
2-[(2,5-Dichloro-4-pyrimidinyl)amino]-N-(2-hydroxyethyl)benzamide (150 mg, 0.45 mmol) and 3-(4-methyl-1-piperazinyl)aniline (87 mg, 0.45 mmol) were combined in a vessel with 8 mL isopropanol and 12N HCl (38 μL, 0.45 mmol). The vessel was sealed and heated with stirring at 95° C. for 18 h. The reaction was cooled to room temperature and the solid was filtered off and washed with ether to give 184 mg (76%) of an off-white solid as the HCl salt. Mass (M+H)+=482, 484.

reactant | 2-[(2,5-Dichloro-4-pyrimidinyl)amino]-N-(2-hydroxyethyl)benzamide | 0.45 mmol, 150 mg | ClC1=NC=C(C(=N1)NC1=C(C(=O)NCCO)C=CC=C1)Cl | C13H12Cl2N4O2
reactant | 3-(4-methyl-1-piperazinyl)aniline | 0.45 mmol, 87 mg | CN1CCN(CC1)C=1C=C(N)C=CC1 | C11H17N3
reactant | HCl | 0.45 mmol, 12N, 38 μL | Cl | ClH
solvent | isopropanol | 8 mL | C(C)(C)O | C3H8O
product | 2-[(5-Chloro-2-{[3-(4-methyl-1-piperazinyl)phenyl]amino}-4-pyrimidinyl)amino]-N-(2-hydroxyethyl)benzamide | 184 mg, 76% | ClC=1C(=NC(=NC1)NC1=CC(=CC=C1)N1CCN(CC1)C)NC1=C(C(=O)NCCO)C=CC=C1 | C24H28ClN7O2
